US04460598
Preparation of 8-(1,4,5-triphenylimidazol-2-yl-oxy)-caprylic acid.
171 g of methyl-8-(1,4,5-triphenylimidazol-2-yloxy)-caprylate and 44 g of sodium hydroxide are dissolved in 1,000 ml of methanol and the mixture is stirred at room temperature for about 24 hours. The solvent is then stripped off in vacuo and the residue is taken up in water. The aqueous solution is washed with ether and acidified with dilute hydrochloric acid and the acid precipitated is separated off and dried.

reactant | methyl-8-(1,4,5-triphenylimidazol-2-yloxy)-caprylate | 171 g | COC(CCCCCCCOC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H32N2O3
reactant | sodium hydroxide | 44 g | [OH-].[Na+]
solvent | methanol | 1,000 ml | CO | CH4O
solvent | water | O | H2O
product | 8-(1,4,5-triphenylimidazol-2-yl-oxy)-caprylic acid | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCC(=O)O | C29H30N2O3
